US07157487B2
Indoline (0.49 ml, 4.36 mmol) was dissolved in THF (20 ml). To the resulting solution was added N,N′-thiocarbonyldiimidazole (863 mg, 4.36 mmol). The resulting mixture was stirred at room temperature for 14 hours. Methyl 4-amino-2-fluoro-3-hydroxyphenylacetate (1.0 g, 5.0 mmol) was added to the reaction mixture, followed by stirring at 70° C. for 1 day. Mercuric oxide (yellow) (944 mg, 4.36 mmol) was added to the reaction mixture and the resulting mixture was heated at 70° C. for 15 hours. After cooling to room temperature, the reaction mixture was filtered through Celite, followed by washing with methanol. The filtrate was distilled under reduced pressure to remove the solvent. The residue was purified by chromatography on a silica gel column, whereby from chloroform/ethyl acetate (10/1) eluate fractions, methyl (7-fluoro-2-(1-indolinyl)-6-benzoxazolyl)acetate (330 mg, 23%) was obtained as a pale brown solid.

reactant | Indoline | 4.36 mmol, 0.49 ml | N1CCC2=CC=CC=C12 | C8H9N
reactant | N,N′-thiocarbonyldiimidazole | 4.36 mmol, 863 mg | C1=CN(C=N1)C(=S)N2C=CN=C2 | C7H6N4S
reactant | Methyl 4-amino-2-fluoro-3-hydroxyphenylacetate | 5.0 mmol, 1.0 g | NC1=C(C(=C(C=C1)CC(=O)OC)F)O | C9H10FNO3
solvent | THF | 20 ml | C1CCOC1 | C4H8O
product | methyl (7-fluoro-2-(1-indolinyl)-6-benzoxazolyl)acetate | 330 mg, 23% | FC1=C(C=CC=2N=C(OC21)N2CCC1=CC=CC=C21)CC(=O)OC | C18H15FN2O3
